US04348326
A stirred solution of 5.6 grams (0.03 mole) of [5-(phenylmethyl)-3-furanyl]methanol and 4.3 grams (0.03 mole) of dimethyl acetylenedicarboxylate in 100 ml of toluene was heated under reflux for 3 hours. The solvent was removed under reduced pressure to give approximately 10 grams of 2,3-bis(methoxycarbonyl)-4-phenylmethyl-7-oxabicyclo[2.2.1]hepta-2,5-diene-6-methanol. The alcohol was used without further purification.

reactant | [5-(phenylmethyl)-3-furanyl]methanol | 0.03 mole, 5.6 grams | C1(=CC=CC=C1)CC1=CC(=CO1)CO | C12H12O2
reactant | dimethyl acetylenedicarboxylate | 0.03 mole, 4.3 grams | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-bis(methoxycarbonyl)-4-phenylmethyl-7-oxabicyclo[2.2.1]hepta-2,5-diene-6-methanol | approximately 10 grams | COC(=O)C=1C2C(=CC(C1C(=O)OC)(O2)CC2=CC=CC=C2)CO | C18H18O6
